* Z:\mnt\design.r\spice\examples\4000-1.asc
M§Q1 N003 N009 N011 N011 BSC123N08NS3
M§Q2 N011 N014 0 0 BSC123N08NS3
D1 N004 N006 MBRS140
C1 N006 N011 .1µ
C2 N016 N017 47n
D2 0 N011 MBRS1100
L1 N011 N012 10µ
R1 N012 N005 3m
R2 N013 0 49.9K
C3 N008 0 .002µ
C4 N005 0 100µ
D3 N005 N004 1N4148
R3 N010 N005 150K
R4 0 N010 16.2K
C5 N004 0 1µ
XU1 N003 N007 N008 N010 N010 N015 MP_01 N013 N005 N012 0 N014 N004 N011 N009 N006 0 LT3845A
R5 N016 N015 14.7K
R6 N036 N007 1Meg
R7 N002 N023 1.1Meg
R8 N023 0 100K
C6 N002 0 1µ
C7 N029 0 10n
C8 N032 0 10n
R9 N036 N028 100K
R10 N036 N026 100K
M§Q3 N005 N018 OUT OUT Si4427DY
M§Q4 N021 N020 N019 N019 Si4427DY
R11 OUT N022 1.15Meg
R12 N022 N024 127K
R13 N024 N027 133K
R14 N021 N027 1.13Meg
V1 N031 0 7.35
C9 N036 0 1µ
R15 N030 N036 10K
R16 N030 0 10K
R17 0 N035 22.1K
R18 0 N034 24.9K
C10 N033 0 .0047µ
R19 OUT N019 5m
C11 N015 0 2200p
C12 N021 N031 10m
D4 0 N023 zener_2V
V2 IN 0 pwl(0 36 6m 36 6.001m 40)
R20 N002 N003 5m
L2 N001 N002 10n
C13 N003 0 100µ
XU2 N023 N007 N029 N037 N025 N032 N035 N034 N033 0 N026 N028 N036 N030 N024 N027 N021 N020 N019 OUT N022 N018 N005 N015 N017 N003 N002 LTC4000-1 period=19
R21 N002 N037 31.6K
R22 N037 0 10K
R23 IN N001 2
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 25m 0.1m uic
.model zener_2V D(Ron=100 Roff=1G vfwd=0.01 vrev=2 rrev=100)
.lib LT3845A.sub
.lib LTC4000-1.sub
.backanno
.end
